US04284782
250 parts of water, 98 parts of N-methylcyanoacetamide and 169 parts of acetoacetic acid ethyl ester are initially placed in an autoclave, 40 parts of gaseous monomethylamine are injected, while stirring, and the reaction mixture is then heated at 90° C. for 3 hours, a pressure of 2.9 bars being generated. The batch is diluted with 400 parts of water, 80 parts of 61% strength sulphuric acid are added at 30°-35° C., the batch is cooled to 20° C. and the precipitate which has been formed is filtered off. 155.8 parts (95% of theory) of 1,4-dimethyl-3-cyano-6-hydroxypyrid-2-one with a melting point of 285° C. are obtained.

reactant | N-methylcyanoacetamide | CNC(CC#N)=O | C4H6N2O
reactant | acetoacetic acid ethyl ester | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | monomethylamine | CN | CH5N
solvent | water | O | H2O
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 1,4-dimethyl-3-cyano-6-hydroxypyrid-2-one | 95% | CN1C(C(=C(C=C1O)C)C#N)=O | C8H8N2O2
